US06376672B1
In analogy to the procedure described in example 1) (k) the (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester was treated with imidazol and sodium hydride in N,N-dimethylformamide to yield the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-imidazol-1-yl-propoxy)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 783 (M+H)+.

reactant | (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@@H]1OC1)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OCC1=CC2=CC=CC=C2C(=C1)OC | C40H46N2O10
reactant | imidazol | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-imidazol-1-yl-propoxy)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H](CN1C=NC=C1)O | C43H50N4O10
